* Z:\mnt\design.r\spice\examples\2921.asc
XU1 N016 N017 N017 N017 N019 N012 N014 N010 N006 N003 0 _RESET N007 N002 N001 N021 LTC2921
V1 N004 0 PULSE(0 5.5 10m 1m 1m 10 20)
V2 N013 0 PULSE(0 3.8 20m 1m 1m 10 20)
V3 N018 0 PULSE(0 2.8 27m 1m 1m 10 20)
M§Q1 N002 N007 N003 N003 Si2316DS
R1 N002 N001 50m
C1 N007 0 .47µ
R2 N012 _RESET 4.7K
C2 N021 0 .22µ
R3 N011 N017 169K
R4 N017 0 49.9K
R5 N009 N016 243K
R6 N016 0 49.9K
R7 N001 N006 100
R8 N009 N014 100
R9 N011 N019 100
XU2 N001 N006 0 N008 N004 MP_01 MP_02 N004 LT1763-5
C3 N001 0 10µ
C4 N001 N008 .01µ
C5 N009 N015 .01µ
C6 N009 0 10µ
XU3 N009 N014 0 N015 N013 MP_03 MP_04 N013 LT1763-3.3
C7 N011 0 10µ
C8 N011 N020 .01µ
XU4 N011 N019 0 N020 N018 MP_05 MP_06 N018 LT1763-2.5
M§Q2 N016 N022 0 0 BSS123
V4 N022 0 PULSE(0 5 2.5 100n 100n 200u 100)
Rload1 N012 0 70
C9 N003 0 10µ
C10 N010 0 10µ
C11 N012 0 10µ
V5 N005 0 PULSE(0 1 2 100n 100n 100u 100)
S1 0 N003 N005 0 SSHRT
M§Q3 N009 N007 N010 N010 Si2316DS
M§Q4 N011 N007 N012 N012 Si2316DS
Rload2 N010 0 70
Rload3 N003 0 70
.model NMOS NMOS
.model PMOS PMOS
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.mos
.tran 4
.model SSHRT SW(Ron=1 Roff=7 Vt=.5 Vh=-.3)
.lib LT1763.lib
.lib LTC2921.sub
.backanno
.end
